US05587379
This compound was prepared in a manner analogous to that of Step D of Example 12, using 2.4 grams (0.010 mole) of 2,4-diamino-5-hydroxy-6-methylpyrimidine hydrosulfate salt (prepared in Steps A-C of this Example), 3.0 grams (0.011 mole) of 2-trifluoromethylphenyl 3-bromopropyl ether, and 8.3 grams (0.060 mole) of finely ground potassium carbonate in 50 mL of N,N-dimethylformamide. The product was recrystallized from methanol and water, yielding 0.8 gram of 2,4-diamino-5-[3-(2-trifluoromethylphenoxy)propoxy]-6-methylpyrimidine, mp 132°-134° C. The NMR spectrum was consistent with the proposed structure.

reactant | 2,4-diamino-5-hydroxy-6-methylpyrimidine | 0.010 mole, 2.4 grams | NC1=NC(=C(C(=N1)N)O)C | C5H8N4O
reactant | 2-trifluoromethylphenyl 3-bromopropyl ether | 0.011 mole, 3.0 grams | BrCCCOC1=C(C=CC=C1)C(F)(F)F | C10H10BrF3O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2,4-diamino-5-[3-(2-trifluoromethylphenoxy)propoxy]-6-methylpyrimidine | 0.8 gram | NC1=NC(=C(C(=N1)N)OCCCOC1=C(C=CC=C1)C(F)(F)F)C | C15H17F3N4O2
